US06107329
(R)-2-Amino-N-methyl-3-phenyl-propionamide hydrochloride
(R)-(1-Methylcarbamoyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester (722 mg, 2.6 mmol) was dissolved in 4M HCl-dioxane (10 mL) at 0° C. The mixture was stirred for 1 hour at 25° C., concentrated and the residue triturated with ether. Yield, 517 mg, 93%.

reactant | (R)-(1-Methylcarbamoyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 2.6 mmol, 722 mg | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)C(NC)=O)=O | C15H22N2O3
reactant | HCl dioxane | 4M, 10 mL | Cl.O1CCOCC1
product | (R)-2-Amino-N-methyl-3-phenyl-propionamide hydrochloride | Cl.N[C@@H](C(=O)NC)CC1=CC=CC=C1 | InChI=1S/C10H14N2O.ClH/c1-12-10(13)9(11)7-8-5-3-2-4-6-8;/h2-6,9H,7,11H2,1H3,(H,12,13);1H/t9-;/m1./s1
